
// Schmitt Trigger Characterization Testbench
// Transient simulation
simulator lang=spectre
global 0

// include model card
include "dummy_model_card_path" section=dummy_corner_name

parameters w1 = {w1}  l1 = {l1}  w2 = {w2}  l2 = {l2}  w3 = {w3}  l3 = {l3}  w4 = {w4}  l4 = {l4}  w5 = {w5}  l5 = {l5}  w6 = {w6}  l6 = {l6}  

// the power supply 3.3 V and current bias
vdd    (dd  0)   vsource  dc=vdd     type=dc

// the input signal for dc and tran simulation
vin    (in 0)     vsource  type=pwl	   wave=[0 0 1e-3 vdd 2e-3 0]

// the circuit
include    "/home/shunqidai/Sizing/SizingDemoLinuxSpectre_integer_stdcell/smic018/ckt_netlist/schmitt_trigger.scs" 
Xschmitt_trigger  (dd 0 in out)  schmitt_trigger 
cl 	   (out 0) 					capacitor  c=cload

// Sprctre Analyses and Output Options
// Output Options
simulatorOptions options 
+    reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 
+    tnom=27 scalem=1.0 scale=1.0e-6 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 
+    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" 
+    checklimitdest=psf 

// Analyses
old_data_output_filename tran start=0.0 stop=2e-3 annotate=status 
saveOptions options save=allpub subcktprobelvl=2
// maxstep=0.01e-3 
// end of file
